data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(C(C)C)c1.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(C(C)C)c1"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(C(C)C)c1", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(C(C)C)c1.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(C(C)C)c1", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(C(C)C)c2)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(C(C)C)c2)C(=N)C=C1", "products": "COc1cc(C(C)C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1"}, {"reactants": "COc1cc(C(C)C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1", "products": "COc1cc(C(C)C)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(C(C)C)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(C(C)C)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(C(C)C)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(C(C)C)c2c(c1)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(C(C)C)c2c(c1)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(C(C)C)c2[nH]cc(-c3ccccc3)c2c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(Cl)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Cl)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Cl)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(Cl)C(Cl)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(Cl)C(Cl)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(Cl)C(Cl)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "CCc1cc(NN=CCc2ccccc2)ccc1OC.Cl[Zn]Cl", "products": "CCc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC"}, {"reactants": "CCc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC", "products": "CCc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC.[H+]"}, {"reactants": "CCc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC", "products": "CCc1ccccc1C(C=[N][Zn-]([Cl])[Cl])C1C=C(OC)C=CC1=N"}, {"reactants": "CCc1ccccc1C(C=[N][Zn-]([Cl])[Cl])C1C=C(OC)C=CC1=N", "products": "CCc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)cc1OC"}, {"reactants": "CCc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)cc1OC", "products": "CCc1cc2c(cc1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "CCc1cc2c(cc1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "CCc1cc2c(cc1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "CCc1cc2c(cc1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "CCc1cc2c(cc1OC)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "CCc1cc2c(cc1OC)C(c1ccccc1)C=[NH+]2", "products": "CCc1cc2[nH]cc(-c3ccccc3)c2cc1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(Cl)c1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Cl)c1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Cl)c1OC)C(C)C", "products": "COc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "COc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "COc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "COc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "COc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "COc1c(Cl)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1ccc(Cl)c(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "COc1ccc(Cl)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "COc1ccc(Cl)c(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "COc1ccc(Cl)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1ccc(Cl)c2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1ccc(Cl)c2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(C)C(OC)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(C)C1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(C)C1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(C)C1(OC)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(C)C1(OC)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(C)C1(OC)CC(C(=O)OC)C(=O)C2"}]}
